US04402963
2-Tert-butyl-2-(1H-1,2,4-triazol-1-yl)-methyl-4-(2,4-dichlorophenoxy)-methyl-1,3-dioxolane
3.5 g of 1,2,4-triazole potassium salt in 100 ml of absolute dimethylformamide are heated to 100°. To the hot solution are added dropwise 9 g of 2-tert-butyl-2-bromomethyl-4-(2,4-dichlorophenoxy)-methyl-1,3-dioxolane dissolved in 50 ml of absolute dimethylformamide. The reaction mixture is subsequently stirred for 24 hours at 130°; the solvent is then removed in vacuo and the residue is extracted with diethyl ether; the ether phase is washed with water and dried over sodium sulfate. The yield after concentration by evaporation is 7 g of a viscous oil which, after the addition of n-hexane, crystallises to give the cis isomer, m.p. 113°-114°. The trans isomer, m.p. 73°-74°, can be obtained from the mother liquor.

reactant | 1,2,4-triazole potassium salt | 3.5 g | [K].N1N=CN=C1
reactant | 2-tert-butyl-2-bromomethyl-4-(2,4-dichlorophenoxy)-methyl-1,3-dioxolane | 9 g | C(C)(C)(C)C1(OCC(O1)(OC1=C(C=C(C=C1)Cl)Cl)C)CBr | C15H19BrCl2O3
reactant | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
reactant | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 2-Tert-butyl-2-(1H-1,2,4-triazol-1-yl)-methyl-4-(2,4-dichlorophenoxy)-methyl-1,3-dioxolane | C(C)(C)(C)C1(OC(C(O1)(OC1=C(C=C(C=C1)Cl)Cl)C)C)N1N=CN=C1 | C17H21Cl2N3O3
